US07872031B2
Using the same protocol used to prepare compound I-A-492, 3-(1-(2,3-difluorophenyl)-1H-tetrazol-5-yl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-amine and tert-butyl 4-(5-bromothiazol-2-yl)piperidine-1-carboxylate were reacted together in a PdCl2(dppf)-2-mediated coupling to produce 3-(1-(2,3-difluorophenyl)-1H-tetrazol-5-yl)-5-(2-(piperidin-4-yl)thiazol-5-yl)pyridin-2-amine; 1H NMR (DMSO-d6): 8.46 (d, J=2.3 Hz, 1H), 7.90-7.48 (m, 5H), 3.40-3.22 (m, 3H), 3.11-2.92 (m, 2H), 2.22-2.10 (m, 2H), 1.99-1.83 (m, 2H); ES-MS: m/e=441.1 (M+H).

reactant | 3-(1-(2,3-difluorophenyl)-1H-tetrazol-5-yl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyridin-2-amine | FC1=C(C=CC=C1F)N1N=NN=C1C=1C(=NC=C(C1)B1OC(C(O1)(C)C)(C)C)N | C18H19BF2N6O2
reactant | tert-butyl 4-(5-bromothiazol-2-yl)piperidine-1-carboxylate | BrC1=CN=C(S1)C1CCN(CC1)C(=O)OC(C)(C)C | C13H19BrN2O2S
product | 3-(1-(2,3-difluorophenyl)-1H-tetrazol-5-yl)-5-(2-(piperidin-4-yl)thiazol-5-yl)pyridin-2-amine | FC1=C(C=CC=C1F)N1N=NN=C1C=1C(=NC=C(C1)C1=CN=C(S1)C1CCNCC1)N | C20H18F2N8S
